US06790860B2
A solution of 130 mg (0.257 mmol) (2R,4R)-2-(3-methane-sulfonyloxy-propyl)-4-(4-methoxy-benzylsulfanyl)-pyrrolidine-1-carboxylic acid butyl ester, 0.037 ml (0.514 mmol) pyrrole and 38.6 mg (0.257 mmol) NaI in 0.4 ml DMF was treated at 0° C. with 22.4 mg (0.514 mmol) 55% NaH and warmed up over night to room temperature. The reaction was neutralized with cooled aqueous saturated NH4Cl and extracted (EtOAc 3×). The organic phase was washed with aqueous 10% NaCl, dried (Na2SO4) evaporated and purified by flash silica gel column (Hexane/EtOAc 9:1) to give 75 mg (68%) of (2R,4R)-4-(4-methoxy-benzylsulfanyl)-2-(3-pyrrol-1-yl-propyl)-pyrrolidine-1-carboxylic acid butyl ester, MS: 431 (MH+).

reactant | (2R,4R)-2-(3-methane-sulfonyloxy-propyl)-4-(4-methoxy-benzylsulfanyl)-pyrrolidine-1-carboxylic acid butyl ester | 0.257 mmol, 130 mg | C(CCC)OC(=O)N1[C@@H](C[C@H](C1)SCC1=CC=C(C=C1)OC)CCCOS(=O)(=O)C | C21H33NO6S2
reactant | pyrrole | 0.514 mmol, 0.037 ml | N1C=CC=C1 | C4H5N
reactant | NaI | 0.257 mmol, 38.6 mg | [Na+].[I-]
reactant | NaH | 0.514 mmol, 22.4 mg | [H-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 0.4 ml | CN(C)C=O | C3H7NO
product | (2R,4R)-4-(4-methoxy-benzylsulfanyl)-2-(3-pyrrol-1-yl-propyl)-pyrrolidine-1-carboxylic acid butyl ester | 75 mg, 68% | C(CCC)OC(=O)N1[C@@H](C[C@H](C1)SCC1=CC=C(C=C1)OC)CCCN1C=CC=C1 | C24H34N2O3S
